US05251197
C. 10-[4-[[4-(dodecyl)phenyl]azo]phenoxy]-N-(2-hydroxyethyl)-N,N-dimethyl-1-decanaminium bromide
A 3000 ml three-necked round bottom flask was equipped with magnetic stirring, a heating mantle, a reflux condenser, and a nitrogen atmosphere. The flask was charged with 4-(10-bromodecyloxy)-4'-dodecylazobenzene (40 g, 0.068 mol), dimethylethanolamine (95.2 g, 1.068 mole) and 1050 ml of tetrahydrofuran. The reaction mixture was allowed to reflux for 24 hours. During the course of the reaction mixture. After 24 hours, the reaction mixture was cooled to room temperature, and then chilled in an ice-water bath. The crystalline solid was isolated by suction filtration. The crude product was dissolved in hot methanol and filtered to remove insoluble impurities. The methanol was removed by evaporation at reduced pressure. The crude product was recrystallized from tetrahydrofuran. Yield 28.0 g, 61.0%.

reactant | 4-(10-bromodecyloxy)-4'-dodecylazobenzene | 0.068 mol, 40 g | BrCCCCCCCCCCOC1=CC=C(C=C1)N=NC1=CC=C(C=C1)CCCCCCCCCCCC | C34H53BrN2O
reactant | dimethylethanolamine | 1.068 mole, 95.2 g | CN(CCO)C | C4H11NO
reactant | tetrahydrofuran | 1050 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 10-[4-[[4-(dodecyl)phenyl]azo]phenoxy]-N-(2-hydroxyethyl)-N,N-dimethyl-1-decanaminium bromide | [Br-].C(CCCCCCCCCCC)C1=CC=C(C=C1)N=NC1=CC=C(OCCCCCCCCCC[N+](C)(C)CCO)C=C1 | InChI=1S/C38H64N3O2.BrH/c1-4-5-6-7-8-9-10-13-16-19-22-35-23-25-36(26-24-35)39-40-37-27-29-38(30-28-37)43-34-21-18-15-12-11-14-17-20-31-41(2,3)32-33-42;/h23-30,42H,4-22,31-34H2,1-3H3;1H/q+1;/p-1
